US09387204B2
Step 2: [4-(6-bromo-3-phenylimidazo[1,2-a]pyridin-2-yl)phenyl]methanol
To the stirred solution 4-(6-bromo-3-phenylimidazo[1,2-a]pyridin-2-yl)benzaldehyde (0.795 mM) in 15 mL of methanol is added NaBH4 (1.5 eq) at 0° C. and the reaction is allowed to stir at room temperature for 1 hr. The reaction is concentrated and quenched with water. The precipitated solid is filtered and dried to yield the desired product.

reactant | 4-(6-bromo-3-phenylimidazo[1,2-a]pyridin-2-yl)benzaldehyde | 0.795 mM | BrC=1C=CC=2N(C1)C(=C(N2)C2=CC=C(C=O)C=C2)C2=CC=CC=C2 | C20H13BrN2O
reactant | NaBH4 | 1.5 eq | [BH4-].[Na+]
solvent | methanol | 15 mL | CO | CH4O
product | [4-(6-bromo-3-phenylimidazo[1,2-a]pyridin-2-yl)phenyl]methanol | BrC=1C=CC=2N(C1)C(=C(N2)C2=CC=C(C=C2)CO)C2=CC=CC=C2 | C20H15BrN2O
